US05679813
283 g of cobalt hydroxide containing 62.5% by weight of cobalt was dispersed in 525 g of neodecanoic acid. Heat was evolved by the reaction and when the mixture had begun to cool down, 222 g of propionic acid was slowly added over 30 minutes and the temperature of the reaction mixture was adjusted to 95° C. After 1 hour at this temperature the mixture was heated to 190° C. and vacuum (28 mm Hg) was applied to facilitate removal of the water present in the reaction mixture. n-Butyl-o-borate (230 g) was then added slowly, following which the temperature was raised to 220° C. The n-butyl propionate formed was distilled out of the reaction mixture in vacuo. The product obtained, cobalt boro neodecanoate (786 g), contained 22.5% by weight of cobalt.

reactant | propionic acid | 222 g | C(CC)(=O)O | C3H6O2
reactant | neodecanoic acid | 525 g | C(CCCCCC(C)(C)C)(=O)O | C10H20O2
catalyst | cobalt hydroxide | 283 g | [OH-].[Co+2].[OH-]
catalyst | cobalt | [Co] | Co
product | n-butyl propionate | C(CC)(=O)OCCCC | C7H14O2
